US06057371
A solution of cyclohexanepentanoic acid (2 g, 10.9 mmol) in SOCl2 (8 mL) was heated on a steam bath for 3 h. The SOCl2 was removed under vacuum. Chloroform (2×10 mL) was added and reevaporated to give the crude acid chloride as a yellow liquid. A saturated solution of ammonia in dry THF (ammonia gas bubbled through 10 mL of THF for 5 min), was slowly added to a solution of the acid chloride in dry THF (50 mL) while cooling in an ice bath. The reaction mixture was allowed to stir at room temperature for 3 h and was then concentrated to half of its volume and poured onto water (100 mL). The solid was removed by filtration, washed with water and dried (MgSO4). Recrystallization from aqueous MeOH gave 5-cyclohexylvaleramide (1.1 g, 55%); mp 121-122° C. (reported mp 122-123° C.) (Katsellson and Dubinin, Compt. Rend. Acad. Sci. U.R.S.S. [N.S.] 4:405 (1936); Chem. Abstr. 31:3449 (1937)). A suspension of the amide (183 mg, 1 mmol) in anhydrous Et2O (9 mL) was slowly added to a stirred suspension of LiAlH4 (114 mg, 3 mmol) in Et2O (15 mL). After addition was complete, the mixture was heated at reflux for 2 h and then allowed to stir overnight at room temperature. The reaction mixture was cooled to 0° C. and excess LiAlH4 was decomposed by successive addition of water (2 mL), 2N NaOH (2 mL) and water (5 mL). After stirring vigorously for 20 min, the mixture was filtered and the inorganic residue was washed with warm Et2O (3×8 mL). The combined Et2O solution was dried over anhydrous K2CO3 and evaporated to dryness. The residue was distilled under reduced pressure to yield a clear oil (99 mg, 59%); bp 30-36° C. (0.35 mm), Lit. bp 108≥113° C. (15 nm) (Skinner, C. G., et al., J. Am. Chem. Soc. 79:2844 (1957)). A solution of the free base in anhydrous Et2O was added to a solution of oxalic acid (52 mg) in anhydrous Et2O (8 mL) with continuous shaking. The precipitated solid was recrystallized from MeOH/anhydrous Et2O; mp 164° C. (see Table 8).

reactant | cyclohexanepentanoic acid | 10.9 mmol, 2 g | C1(CCCCC1)CCCCC(=O)O | C11H20O2
reactant | ammonia | N | H3N
solvent | SOCl2 | 8 mL | O=S(Cl)Cl | Cl2OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-cyclohexylvaleramide | 1.1 g, 55% | C1(CCCCC1)CCCCC(=O)N | C11H21NO
